US07425568B2
2-(2-Phenylindan-5-yloxy)phenylamine was prepared as described for 2-(2-phenylchroman-6yloxy)-phenylamine in Example 29(b) using 170 mg of 5-(2-nitrophenoxy)-2-phenylindane. 1H-N (400 MHz, d6-DMSO): 7.32-7.27 (m, 4H), 7.23-7.16 (m, 2H), 6.92-6.87 (m, 1H), 6.81-6.71 (m, 4H), 6.56-6.53 (m, 1H), 4.85 (bs, 2H), 3.65 (k, 1H, J 8.3 Hz), 3.23 (dd, 2H, J 8.3, 15.5 Hz), 2.97-2.88 (m, 2H).

reactant | 2-(2-phenylchroman-6yloxy)-phenylamine | C1(=CC=CC=C1)C1OC2=CC=C(C=C2CC1)OC1=C(C=CC=C1)N | C21H19NO2
reactant | 5-(2-nitrophenoxy)-2-phenylindane | 170 mg | [N+](=O)([O-])C1=C(OC=2C=C3CC(CC3=CC2)C2=CC=CC=C2)C=CC=C1 | C21H17NO3
product | 2-(2-Phenylindan-5-yloxy)phenylamine | C1(=CC=CC=C1)C1CC2=CC=C(C=C2C1)OC1=C(C=CC=C1)N | C21H19NO
